US05550130
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (5.5 g, 25 mmol), 4-bromobutylphthalimide (8.0 g, 28.3 mmol, 1.13 eq), K2CO 3 (4.55 g, 32 mmol) in acetonitrile (100 ml) was heated at reflux for 3 hours. At the end of the reaction, the mixture was filtered. The insolubles were washed with dichloromethane (200 ml). The organic solution was concentrated gradually to allow cystallization. The crude crystals (5.9 g) were collected. The mother liquor was concentrated to a solid (5.5 g). Purification was by flash chromatography over a silica gel column. The product (3.8 g) thus purified was recrystallized from ethanol (70 ml) to give 2.48 g of N-[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl]phthalimide as white crystals,

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 25 mmol, 5.5 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | 4-bromobutylphthalimide | 28.3 mmol, 8.0 g, 1.13 eq | BrCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C12H12BrNO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl]phthalimide | 2.48 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C24H24FN3O3
